US09062028B2
Step A. 4-Bromo-1-(3-methoxybenzyl)-1H-pyrazole
The title compound was prepared using a procedure analogous to methyl 3-((4-bromo-1H-pyrazol-1-yl)methyl)benzoate except that methyl 3-(bromomethyl)benzoate was replaced with 1-(bromomethyl)-3-methoxybenzene. LCMS, [M+H]+=267.1.

reactant | methyl 3-((4-bromo-1H-pyrazol-1-yl)methyl)benzoate | BrC=1C=NN(C1)CC=1C=C(C(=O)OC)C=CC1 | C12H11BrN2O2
reactant | methyl 3-(bromomethyl)benzoate | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
reactant | 1-(bromomethyl)-3-methoxybenzene | BrCC1=CC(=CC=C1)OC | C8H9BrO
product | 4-Bromo-1-(3-methoxybenzyl)-1H-pyrazole | BrC=1C=NN(C1)CC1=CC(=CC=C1)OC | C11H11BrN2O
